* Z:\mnt\design.r\spice\examples\1122.asc
V1 +V 0 15
V2 -V 0 -15
R1 N003 N002 20K
R2 N002 IN 20K
V3 IN 0 SINE(0 1 100 1 0 0 200)
XU1 0 N002 +V -V N005 LT1122
R3 OUT N001 200K
XU2 0 N004 +V -V OUT LT1122
D1 N003 N005 1N4148
D2 N005 N002 1N4148
R5 N001 IN 200K
R6 N001 N003 100K
R7 N004 N001 1K
C1 OUT N001 1µ
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 5
* Wide-Band Filtered, Full Wave Rectifier
.lib LTC.lib
.backanno
.end
